US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]-piperazin-1-yl]-N-(2,6-diisopropyl-3-mesyloxyphenyl)acetamide:
Methanesulfonyl chloride (103 mg, 0.9 mmol) was added to a solution of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide (149 mg, 0.3 mmol) and triethylamine (91 mg, 0.9 mmol) in THF (2 ml) with ice-cooling and the mixture was stirred for 30 minutes. Then triethylamine (46 mg, 0.45 mmol) and methanesulfonyl chloride (52 mg, 0.45 mmol) were further added thereto and the mixture was stirred for 20 minutes. The reaction solution was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (20 g of silica gel; developing solvent, chloroform:methanol=20:1) and the resulting crude crystals were recrystallized from acetone and hexane to provide 120 mg (yield 70%) of the desired compound as colorless crystals.

reactant | Methanesulfonyl chloride | 0.9 mmol, 103 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide | 0.3 mmol, 149 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)O)C(C)C | C27H36N4O3S
reactant | triethylamine | 0.9 mmol, 91 mg | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.45 mmol, 46 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.45 mmol, 52 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]-piperazin-1-yl]-N-(2,6-diisopropyl-3-mesyloxyphenyl)acetamide | 120 mg, yield 70% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)OS(=O)(=O)C)C(C)C | C28H38N4O5S2
